US05342846
N-Benzyl-3-(4-azido carbonyl-1,2,3-triazol-1-yl)pyrrolidine
N-benzyl-3-(4-hydrazinocarbonyl-1,2,3-triazol -1-yl)pyrrolidine (3.6 g, 0.0125 mol) was dissolved in hot water (40 ml) and then cooled to 0° C. To the cooled suspension NaNO2 (950 mg, 0.0137 mol in 3 ml of water) was added dropwise and then glacial AcOH (7 ml) was added to the reaction mixture was stirred at 0° C. for 15 min. Reaction mixture was then neutralized by the addition of saturated NaHCO3. The separated white solid was filtered and washed with water, dried in vacuum oven. Yield: 3.73 g (100%), m.p. 160° C. 1H NMR (CDCl3) δ: 1.95-2.15 (m, 1H), 2.37-2.83 (m, 3H), 2.94-3.22 (m, 2H), 3.70 (d, 2H), 5.75-5.87 (m, 1H), 7.30 (s, 5H), 8.47 (s, 1H).

reactant | N-benzyl-3-(4-hydrazinocarbonyl-1,2,3-triazol -1-yl)pyrrolidine | 0.0125 mol, 3.6 g | C(C1=CC=CC=C1)N1CC(CC1)N1N=NC(=C1)C(=O)NN | C14H18N6O
reactant | NaNO2 | 0.0137 mol, 3 ml, 950 mg | N(=O)[O-].[Na+]
reactant | AcOH | 7 ml | CC(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 40 ml | O | H2O
product | N-Benzyl-3-(4-azido carbonyl-1,2,3-triazol-1-yl)pyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)N1N=NC(=C1)C(=O)N=[N+]=[N-] | C14H15N7O
